US09382194B2
N,N′-Bis-(2-hydroxy-1-hydroxymethyl-ethyl)-5-nitro-isophthalamide (40 g) is dissolved in water (600 mL), and then heated to 90° C. to dissolve. Raney Ni (5 g) is added, and allowed to react for 10 h under a H2 pressure of 1.5 MPa. Raney Ni is removed by filtration and the filter cake washed with 20-30 mL of water. The filtrate and washings are combined to obtain the aqueous solution of 5-Amino-N,N′-bis-(2-hydroxy-1-hydroxymethyl-ethyl)-isophthalamide, which can be utilized directly in the iodination reaction or concentrated and then re-crystallized using methanol to obtain solid product.

reactant | N,N′-Bis-(2-hydroxy-1-hydroxymethyl-ethyl)-5-nitro-isophthalamide | 40 g | OCC(CO)NC(C1=CC(C(=O)NC(CO)CO)=CC(=C1)[N+](=O)[O-])=O | C14H19N3O8
solvent | water | 600 mL | O | H2O
catalyst | Ni | 5 g | [Ni] | Ni
product | 5-Amino-N,N′-bis-(2-hydroxy-1-hydroxymethyl-ethyl)-isophthalamide | NC=1C=C(C=C(C(=O)NC(CO)CO)C1)C(=O)NC(CO)CO | C14H21N3O6
